US06090836
Using the procedure in Example 51, step 1, phenylacetic acid and 2-(n-propyl)resorcinol were condensed in triflic acid to form 1,3-dihydroxy-4-phenylacetyl-2-(n-propyl)benzene.

reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 2-(n-propyl)resorcinol | C(CC)C1=C(O)C=CC=C1O | C9H12O2
solvent | triflic acid | OS(=O)(=O)C(F)(F)F | CHF3O3S
product | 1,3-dihydroxy-4-phenylacetyl-2-(n-propyl)benzene | OC1=C(C(=C(C=C1)C(CC1=CC=CC=C1)=O)O)CCC | C17H18O3
